US05935952
In 50 ml of ethanol was dissolved 8.91 g of ethyl 4-amino-2,5-difluoro-3-methylbenzoate, and 50 ml of 2N aqueous sodium hydroxide solution was added to the solution, after which the resulting mixture was stirred at room temperature for three hours. To the reaction mixture was added 50 ml of 2N hydrochloric acid, and the resulting crystals were collected by filtration, to obtain 5.45 g of colorless, crystalline 4-amino-2,5-difluoro-3-methylbenzoic acid.

reactant | ethyl 4-amino-2,5-difluoro-3-methylbenzoate | 8.91 g | NC1=C(C(=C(C(=O)OCC)C=C1F)F)C | C10H11F2NO2
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-amino-2,5-difluoro-3-methylbenzoic acid | NC1=C(C(=C(C(=O)O)C=C1F)F)C | C8H7F2NO2
